US07358378B2
Cis-N-t-butoxycarbonyl-3-(2-methoxy-2-propoxy)-4-phenyl-azetidin-2-one
Racemic cis-3-hydroxy-4-phenyl-azetidin-2-one (100 g, 0.61 mol) was dissolved in THF (2.7 L) at ambient temperature at approximately 25 mL/g then cooled to −10 to −15° C. TsOH monohydrate catalyst (3.5 g, 0.018 mol, 3 mol %) was added and then 2-methoxy-2-propene (65 mL, 1.1 to 1.2 eq) was added drop-wise to control the exothermic reaction. The reaction was monitored by TLC and the 2-methoxy-2-propene (2.9 mL) was charged as needed until the disappearance of the starting material was achieved. Triethylamine (85 mL, 0.612 mol) was added to quench the TsOH catalyst. Di-tert-butyldicarbonate (160.5 g, 0.735 mol, 1.2 eq) was added along with DMAP (2.25 g, 0.018 mol, 3 mol %) and the reaction was allowed to proceed at ambient temperature until complete. The mixture was diluted with heptane (1.97 L) approximately equal in volume to the THF used and filtered through a bed of silica gel (100 g) to remove the polar catalysts. The filter cake was washed with 1 L of a 1:1 mixture of ethyl acetate:heptane to ensure complete product recovery. The filtrate was concentrated until crystal formation occurred. Crystals were collected and washed with ice-cold heptane containing 2% triethylamine. The powder was dried to constant weight of 161.0 g (0.48 mol, 78%) under vacuum (0.1 mmHg) at ambient (22° C.) temperature. Mp: 90 to 92° C., 1H NMR (400 MHz, CDCl3) δ (ppm): 0.92 (s, 3H), 1.21 (s, 3H), 1.37 (s, 9H), 1.58 (s, 3H), 3.12 (s, 3H), 5.03 (d, J=5.69 Hz, 1H), 5.17 (d, J=5.69 Hz, 1H), 7.33 (m, 5H).

reactant | Racemic cis-3-hydroxy-4-phenyl-azetidin-2-one | 0.61 mol, 100 g | O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C9H9NO2
reactant | 2-methoxy-2-propene | 65 mL, 1.1 to 1.2 eq | COC(C)=C | C4H8O
reactant | 2-methoxy-2-propene | 2.9 mL | COC(C)=C | C4H8O
reactant | Triethylamine | 0.612 mol, 85 mL | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyldicarbonate | 0.735 mol, 160.5 g, 1.2 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 2.7 L | C1CCOC1 | C4H8O
catalyst | DMAP | 0.018 mol, 2.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | heptane | 1.97 L | CCCCCCC | C7H16
product | Cis-N-t-butoxycarbonyl-3-(2-methoxy-2-propoxy)-4-phenyl-azetidin-2-one | C(C)(C)(C)OC(=O)N1C([C@H]([C@H]1C1=CC=CC=C1)OC(C)(C)OC)=O | C18H25NO5
